### PR TITLE
[Merged by Bors] - feat(Combinatorics/Enumerative/Catalan): large and small Schröder numbers

### PR DESCRIPTION
**Pull request by FlAmmmmING**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/Enumerative/Catalan.lean [hunk 1]
```diff
@@ -187,3 +190,127 @@ theorem treesOfNumNodesEq_card_eq_catalan (n : ℕ) : #(treesOfNumNodesEq n) = c
...
+  rw [largeSchroder_succ, Nat.sum_antidiagonal_eq_sum_range_succ
+      (fun x y => largeSchroder x * largeSchroder y) n, sum_range]
+
+theorem largeSchroder_succ_range (n : ℕ) :
+  largeSchroder (n + 1) = largeSchroder n +
+    ∑ i ∈ range (n + 1), largeSchroder i * largeSchroder (n - i) := by
+  rw [largeSchroder_succ, sum_range]
+
+/-- The small Schroder number is equal to : `largeSchroder n = 2 * smallSchroder (n + 1), n ≥ 1` -/
+def smallSchroder (n : ℕ) : ℚ :=
```
Comment (plp127) [inline Mathlib/Combinatorics/Enumerative/Catalan.lean]: Is this always going to be a natural number? Or can it have `Rat.den` not equal to `1`?

File: Mathlib/Combinatorics/Enumerative/Catalan.lean [hunk 2]
```diff
@@ -187,3 +190,127 @@ theorem treesOfNumNodesEq_card_eq_catalan (n : ℕ) : #(treesOfNumNodesEq n) = c
...
+theorem largeSchroder_one : largeSchroder 1 = 2 := by
+  simp [largeSchroder]
+
+@[simp]
+theorem largeSchroder_two : largeSchroder 2 = 6 := by
+  simp [largeSchroder]
+
+theorem largeSchroder_succ (n : ℕ) :
+  largeSchroder (n + 1) = largeSchroder n +
+    ∑ i : Fin n.succ, largeSchroder i * largeSchroder (n - i) := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/Catalan.lean]: Can you avoid sums over `Fin _` past the definition?
```suggestion
    ∑ i \in .Iic n, largeSchroder i * largeSchroder (n - i) := by
```

**Review by YaelDillies — COMMENTED** [review]
Thanks for the PR! What do you want to build on top of this definition, and would it be more suitable for the OEIS repo?

File: Mathlib/Combinatorics/Enumerative/Catalan.lean [hunk 3]
```diff
@@ -187,3 +190,127 @@ theorem treesOfNumNodesEq_card_eq_catalan (n : ℕ) : #(treesOfNumNodesEq n) = c
       aesop
 
 end Tree
+
+/-!
+# Schroder numbers
+
+The Schröder numbers (http://oeis.org/A006318) are a sequence of integers that appear in various
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/Enumerative/Catalan.lean]:
```suggestion
The Schröder numbers (https://oeis.org/A006318) are a sequence of integers that appear in various
```

File: Mathlib/Combinatorics/Enumerative/Catalan.lean (hunk 2 above)
Comment (FlAmmmmING) [reply Mathlib/Combinatorics/Enumerative/Catalan.lean]: Hello! I've modified the theorem based on your advice! I put it under the Catalan numbers since the Schröder numbers are also referred to as the super Catalan numbers. However, I’m not entirely certain whether it would be more suitable to include it in the OEIS repository instead.

File: Mathlib/Combinatorics/Enumerative/Catalan.lean [hunk 4]
```diff
@@ -191,3 +193,128 @@ theorem treesOfNumNodesEq_card_eq_catalan (n : ℕ) : #(treesOfNumNodesEq n) = c
...
+    ∑ i : Fin n.succ, largeSchroder i * largeSchroder (n - i)`.
+* `smallSchroder n`: the `n`th small Schroder number, defined as
+  `smallSchroder n = largeSchroder n / 2` for `n ≠ 1` and `smallSchroder 1 = 1`.
+-/
+
+open Nat
+
+/-- The recursive definition of the sequence of the large Schroder numbers :
+`largeSchroder (n + 1) = largeSchroder n + `
+  `∑ i : Fin n.succ, largeSchroder i * largeSchroder (n - i)` -/
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/Catalan.lean]: Maybe
```suggestion
`a (n + 1) = a n + ∑ i : Fin n.succ, a i * a (n - i)` -/
```
for brevity?

File: Mathlib/Combinatorics/Enumerative/Catalan.lean [hunk 5]
```diff
@@ -191,3 +193,128 @@ theorem treesOfNumNodesEq_card_eq_catalan (n : ℕ) : #(treesOfNumNodesEq n) = c
...
+theorem largeSchroder_one : largeSchroder 1 = 2 := by
+  simp [largeSchroder]
+
+@[simp]
+theorem largeSchroder_two : largeSchroder 2 = 6 := by
+  simp [largeSchroder]
+
+theorem largeSchroder_succ (n : ℕ) :
+  largeSchroder (n + 1) = largeSchroder n +
+    ∑ i ∈ Iic n, largeSchroder i * largeSchroder (n - i) := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/Catalan.lean]: nit:
```suggestion
    ∑ i \le n, largeSchroder i * largeSchroder (n - i) := by
```

File: Mathlib/Combinatorics/Enumerative/Catalan.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/Enumerative/Catalan.lean]: @FlAmmmmING, can you please do
```suggestion
def smallSchroder (n : ℕ) : ℕ :=
```
?

File: Mathlib/Combinatorics/Enumerative/Catalan.lean (hunk 5 above)
Comment (plp127) [reply Mathlib/Combinatorics/Enumerative/Catalan.lean]: I had to open Lean to make sure it wasn't doing something with `Finset.filter` but it looks like that's the same thing?

Comment (YaelDillies) [reply Mathlib/Combinatorics/Enumerative/Catalan.lean]: Yes, that's the point. My suggestion is nice notation for when you are summing over `Iic x`

File: Mathlib/Combinatorics/Enumerative/Catalan.lean (hunk 1 above)
Comment (FlAmmmmING) [reply Mathlib/Combinatorics/Enumerative/Catalan.lean]: > @FlAmmmmING, can you please do
> 
> ?

Hello! I’m really sorry for only noticing this issue now. I added a theorem proving that the large Schröder number is always even when 𝑛≠0, and based on this, I changed the small Schröder number from a rational number to a natural number. The proof is a bit involved, but you’re welcome to take a look. Thank you for your reply!

File: Mathlib/Combinatorics/Enumerative/Catalan.lean [hunk 6]
```diff
@@ -191,3 +195,106 @@ theorem treesOfNumNodesEq_card_eq_catalan (n : ℕ) : #(treesOfNumNodesEq n) = c
...
+The Schröder numbers (https://oeis.org/A006318) are a sequence of integers that appear in various
+combinatorial contexts.
+
+## Main definitions
+* `largeSchroder n`: the `n`th large Schroder number, defined recursively as
+  `largeSchroder (n + 1) = largeSchroder n +
+    ∑ i : Fin n.succ, largeSchroder i * largeSchroder (n - i)`.
+* `smallSchroder n`: the `n`th small Schroder number, defined as
+  `smallSchroder n = largeSchroder n / 2` for `n ≠ 1` and `smallSchroder 1 = 1`.
+-/
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/Catalan.lean]: Why not make this a separate file?

Comment (FlAmmmmING) [reply Mathlib/Combinatorics/Enumerative/Catalan.lean]: Do you mean I should create a new Schroder.lean file in this directory to store these theorems?

Comment (YaelDillies) [reply Mathlib/Combinatorics/Enumerative/Catalan.lean]: Yes, exactly

**Review by YaelDillies — APPROVED** [review]
I pushed a golf, hope you like it!

maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
